US07834044B2
(a) (RS)-5-Chloro-2-methyl-2,3-dihydro-1H-indole
To a solution of 5-chloro-2-methylindole (1.00 g, 6.04 mmol) in acetic acid (7 ml) was added portionwise sodium cyanoborohydride (0.76 g, 12.1 mmol) and the reaction mixture was stirred at room temperature for 16 hours. The resulting solution was diluted with ethyl acetate and washed sequentially with water and with 5 N aq. sodium hydroxide solution. The organic phase was dried over sodium sulphate and concentrated in vacuo. The residue was purified by chromatography on silica gel (eluant: heptane/ethyl acetate gradient) to yield the title compound as a colourless oil (1.00 g, 100%); MS (ISP): 170.2 ([{37Cl}M+H]+), 168.3 ([{35Cl}M+H]+).

reactant | 5-chloro-2-methylindole | 6.04 mmol, 1.00 g | ClC=1C=C2C=C(NC2=CC1)C | C9H8ClN
reactant | sodium cyanoborohydride | 12.1 mmol, 0.76 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (RS)-5-Chloro-2-methyl-2,3-dihydro-1H-indole | 1.00 g, 100% | ClC=1C=C2CC(NC2=CC1)C | C9H10ClN
